US04897423
Step B: N-(2-Dimethylaminoethyl)-3,5-Dinitrobenzenesulfonamide Hydrochloride
A solution of 3,5-dinitrobenzensulfonyl chloride (4.6 g, 17.3 mmol) in dry tetrahydrofuran (130 mL) was added oer 50 min. to a cooled, stirred solution of N,N-dimethyl ethylenediamine (4.0 mL, 34.6 mmol) in tetrahydrofuran (100 mL). After stirring at room temperature overnight, tetrahydrofuran was removed under reduced pressure and the residue flash chromatographed over silica gel. The sulfonamide (5.1 g) was eluted with 5% methanol- 95% chloroform and purified as the hydrochloride salt, mp 238°-40°.

reactant | 3,5-dinitrobenzensulfonyl chloride | 17.3 mmol, 4.6 g | [N+](=O)([O-])C=1C=C(C=C(C1)[N+](=O)[O-])S(=O)(=O)Cl | C6H3ClN2O6S
reactant | N,N-dimethyl ethylenediamine | 34.6 mmol, 4.0 mL | CN(CCN)C | C4H12N2
solvent | tetrahydrofuran | 130 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | N-(2-Dimethylaminoethyl)-3,5-Dinitrobenzenesulfonamide Hydrochloride | Cl.CN(CCNS(=O)(=O)C1=CC(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])C | InChI=1S/C10H14N4O6S.ClH/c1-12(2)4-3-11-21(19,20)10-6-8(13(15)16)5-9(7-10)14(17)18;/h5-7,11H,3-4H2,1-2H3;1H
